US20010016207A1
B. 4-(4-Isopropyl-piperazin-1-yl)-benzoic acid hydrochloride
4-(4-Isopropyl-piperazin-1-yl)-benzoic acid methyl ester (0.9 mmol) is dissolved in 4N HCl (2 ml) and heated under reflux for 7 hours. The mixture is cooled in an ice bath to 0-4° C. and acetone is added. The solid material formed is filtered off, washed with cold acetone and dried (vacuum). A pale-brown powder with mp. >270° C., Rf=0.08 (CH2Cl2/MeOH=9:1) is obtained.

reactant | 4-(4-Isopropyl-piperazin-1-yl)-benzoic acid methyl ester | 0.9 mmol | COC(C1=CC=C(C=C1)N1CCN(CC1)C(C)C)=O | C15H22N2O2
reactant | acetone | CC(=O)C | C3H6O
reactant | HCl | 4N, 2 ml | Cl | ClH
product | 4-(4-Isopropyl-piperazin-1-yl)-benzoic acid hydrochloride | Cl.C(C)(C)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H20N2O2.ClH/c1-11(2)15-7-9-16(10-8-15)13-5-3-12(4-6-13)14(17)18;/h3-6,11H,7-10H2,1-2H3,(H,17,18);1H
